US08981085B2
A mixture of (R)-tert-butyl 5-bromo-4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(3-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (370 mg, 0.620 mmol), cyclopropylboronic acid (213 mg, 2.48 mmol), tricyclohexylphosphine (20.9 mg, 0.0744 mmol), K3PO4 (461 mg, 2.17 mmol), and diacetoxypalladium (13.9 mg, 0.0620 mmol) in toluene/water (10:1 mixture, 9 mL) was stirred at 80° C. for 22 hours. The mixture was then diluted with EtOAc (60 mL) and water (10 mL) was added. The layers were separated, and the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. The oily residue was purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 20%-90% CH3CN/water, 24CV) to provide (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-(3-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (77 mg, 22% yield) as a solid. LCMS (APCI+) m/z 558 (M+H)+.

reactant | (R)-tert-butyl 5-bromo-4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-3-(3-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.620 mmol, 370 mg | BrC=1C(=C2C(=NC1)N(C=C2NC(CCOC)=O)C(=O)OC(C)(C)C)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C26H38BrN5O6
reactant | cyclopropylboronic acid | 2.48 mmol, 213 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.0744 mmol, 20.9 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 2.17 mmol, 461 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene water | 9 mL | C1(=CC=CC=C1)C.O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | diacetoxypalladium | 0.0620 mmol, 13.9 mg | C(C)(=O)O[Pd]OC(C)=O
solvent | CH3CN water | CC#N.O
product | (R)-tert-butyl 4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)-5-cyclopropyl-3-(3-methoxypropanamido)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 77 mg, 22% yield | C(C)(C)(C)OC(=O)N[C@H]1CN(CCC1)C1=C2C(=NC=C1C1CC1)N(C=C2NC(CCOC)=O)C(=O)OC(C)(C)C | C29H43N5O6
